US07741321B2
To a solution of SOCl2 (150 mL) was added (7-methoxybenzo[d][1,3]dioxol-5-yl)methanol (9.0 g, 54 mmol) in portions at 0° C. The mixture was stirred for 0.5 h. The excess SOCl2 was evaporated under reduced pressure to give the crude product, which was basified with sat. aq. NaHCO3 to pH ˜7. The aqueous phase was extracted with EtOAc (100 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and evaporated to give 6-(chloromethyl)-4-methoxybenzo[d][1,3]dioxole (10.2 g 94%), which was used in the next step without further purification. 1H NMR (400 MHz, CDCl3) δ 6.58 (s, 1H), 6.57 (s, 1H), 5.98 (s, 2H), 4.51 (s, 2H), 3.90 (s, 3H).

reactant | (7-methoxybenzo[d][1,3]dioxol-5-yl)methanol | 54 mmol, 9.0 g | COC1=CC(=CC2=C1OCO2)CO | C9H10O4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | SOCl2 | 150 mL | O=S(Cl)Cl | Cl2OS
product | 6-(chloromethyl)-4-methoxybenzo[d][1,3]dioxole | 10.2 g, 94% | ClCC=1C=C(C2=C(OCO2)C1)OC | C9H9ClO3
